US05538988
A mixture of (-)-6,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine (0.56 g, 3.06 mmol), prepared as in Example 8, and 1,1'-thiocarbonyldiimidazole (0.82 g, 4.59 mmol) in 15 mL of ethyl acetate was stirred until the reaction was complete. The solvent was removed by evaporation. Purification of the residue by column chromatography on silica gel (elution: 5% acetone/methylene chloride) gave (-)-6,7-difluoro-2-isothiocyano-1,2,3,4-tetrahydronaphthalene (0.55 g, 2.42 mmol). [α]D25 -15.5°, (C=1.0, CH3OH).

reactant | (-)-6,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine | 3.06 mmol, 0.56 g | FC=1C=C2CCC(CC2=CC1F)N | C10H11F2N
reactant | 1,1'-thiocarbonyldiimidazole | 4.59 mmol, 0.82 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | (-)-6,7-difluoro-2-isothiocyano-1,2,3,4-tetrahydronaphthalene | 2.42 mmol, 0.55 g | FC=1C=C2CCC(CC2=CC1F)N=C=S | C11H9F2NS
